US05229379
1.41 g of p-chlorobenzaldehyde are added to a solution of 2.53 g of 3-aminopropyl(diethoxymethyl)phosphinic acid ethyl ester in 10 ml of anhydrous methanol, and the resulting clear solution is stirred at room temperature for 30 minutes. There are then added first 0.6 g of glacial acetic acid and then, dropwise, 0.21 g of sodium cyanoborohydride in solution in 5 ml of methanol. An exothermic reaction begins. The mixture is stirred at 20° for 3 hours and adjusted to pH 8, and the solvent is removed. The residue is dissolved in dichloromethane and washed with water. The organic phase is separated off, dried over sodium sulfate and concentrated to dryness by evaporation. The oil that remains is purified by chromatography on silica gel, yielding 3-(p-chlorobenzylamino)propyl(diethoxymethyl)phosphinic acid ethyl ester in the form of a yellowish oil.

reactant | p-chlorobenzaldehyde | 1.41 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | 3-aminopropyl(diethoxymethyl)phosphinic acid ethyl ester | 2.53 g | C(C)OP(=O)(C(OCC)OCC)CCCN | C10H24NO4P
reactant | acetic acid | 0.6 g | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 0.21 g | C(#N)[BH3-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 5 ml | CO | CH4O
product | 3-(p-chlorobenzylamino)propyl(diethoxymethyl)phosphinic acid ethyl ester | C(C)OP(=O)(C(OCC)OCC)CCCNCC1=CC=C(C=C1)Cl | C17H29ClNO4P
